US04634689
(A) [Ethoxy-[4-[2,3-Dihydro-1,3-Dioxo-1H-Isoindol-2-yl]Butyl]Phosphinyl]Acetic Acid, Ethyl Ester
Heat 12.5 gm of ethyl (diethoxyphosphino)acetate with 16.9 gm of N-(4-bromobutyl)phthalimide in a melt at 180° for 5 hours under a nitrogen atmosphere. After cooling, chromatograph the mixture on a silica gel column, eluting with a gradient of 1% to 2% CH3OH in EtOAc. Isolate the major product by vacuum evaporation of the solvent from the combined fractions to obtain the title compound. Rf (silica gel; EtOAc:CH3OH, 99:1)=0.40.

reactant | ethyl (diethoxyphosphino)acetate | 12.5 gm | C(C)OP(OCC)CC(=O)OCC | C8H17O4P
reactant | N-(4-bromobutyl)phthalimide | 16.9 gm | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
product | [Ethoxy-[4-[2,3-Dihydro-1,3-Dioxo-1H-Isoindol-2-yl]Butyl]Phosphinyl]Acetic Acid, Ethyl Ester | C(C)OP(=O)(CCCCN1C(C2=CC=CC=C2C1=O)=O)CC(=O)OCC | C18H24NO6P
